US20010006969A1
2,4-Diallylamino-6-aminoquinazoline
To 3.32 g (14.73 mmol) of tin (II) chloride dihydrate was added 14 ml of concentrated hydrochloric acid and 1.40 g (4.91 mmol) of 2,4-diallylamino-6-nitroquinazoline under ice cooling, and the resulting mixture was stirred at room temperature overnight. The reaction mixture was neutralized by adding an aqueous sodium hydroxide solution, followed by extraction with chloroform, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 1.61 g (yield: 92.5%) of a free base compound of the title compound.

reactant | tin (II) chloride dihydrate | 14.73 mmol, 3.32 g | O.O.[Sn](Cl)Cl
reactant | hydrochloric acid | 14 ml | Cl | ClH
reactant | 2,4-diallylamino-6-nitroquinazoline | 4.91 mmol, 1.40 g | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NCC=C)[N+](=O)[O-] | C14H15N5O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,4-Diallylamino-6-aminoquinazoline | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NCC=C)N | C14H17N5
